data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "COc1cccc(C2(O)C(=O)CC3CCC2(C)C3(C)C)c1Cl.[H+]", "products": "COc1cccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c1Cl"}, {"reactants": "COc1cccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c1Cl", "products": "COc1cccc([C+]2C(=O)CC3CCC2(C)C3(C)C)c1Cl.O"}, {"reactants": "COc1cccc([C+]2C(=O)CC3CCC2(C)C3(C)C)c1Cl", "products": "COc1cccc(C23CCC(CC2=O)C(C)(C)[C+]3C)c1Cl"}, {"reactants": "COc1cccc(C23CCC(CC2=O)C(C)(C)[C+]3C)c1Cl", "products": "COc1cccc(C2=C(C)C(C)(C)C(C#[O+])CC2)c1Cl"}, {"reactants": "COc1cccc(C2=C(C)C(C)(C)C(C#[O+])CC2)c1Cl.O", "products": "COc1cccc(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)c1Cl"}, {"reactants": "COc1cccc(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)c1Cl", "products": "COc1cccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)c1Cl"}, {"reactants": "COc1cccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)c1Cl", "products": "COc1cccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c1Cl"}, {"reactants": "COc1cccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c1Cl", "products": "COc1cccc(C2CCC3C(=O)OC2(C)C3(C)C)c1Cl.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "COC(O[C@@H]1[C@@H](OCc2ccccc2)CN2OC3(CC3)C[C@H]12)c1ccccc1F", "products": "COC(O[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1)c1ccccc1F"}, {"reactants": "COC(O[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1)c1ccccc1F", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(OC)c1ccccc1F"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(OC)c1ccccc1F", "products": "COC(O[C@H]1CN2CCC(=O)C[C@H]2[C@@H]1OCc1ccccc1)c1ccccc1F"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "CCc1ccc(C(=O)C2C3CCC2C3)cc1", "products": "CCc1ccc([C]([O])C2C3CCC2C3)cc1"}, {"reactants": "CCc1ccc([C]([O])C2C3CCC2C3)cc1", "products": "CCc1ccc(C([O])=CC2C[CH]CC2)cc1"}, {"reactants": "CCc1ccc(C([O])=CC2C[CH]CC2)cc1", "products": "CCc1ccc(C(O)=CC2C=CCC2)cc1"}, {"reactants": "CCc1ccc(C(O)=CC2C=CCC2)cc1", "products": "CCc1ccc(C(=O)CC2C=CCC2)cc1"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1cc(Cl)cc(OC)c1)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cc(Cl)cc(OC)c1)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cc(Cl)cc(OC)c1)C(C)C", "products": "COc1cc(Cl)cc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c1"}, {"reactants": "COc1cc(Cl)cc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c1", "products": "COc1cc(Cl)cc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c1"}, {"reactants": "COc1cc(Cl)cc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c1.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "COc1cc(Cl)cc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c1"}, {"reactants": "COc1cc(Cl)cc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c1", "products": "COc1cc(Cl)cc([Si]2(c3ccccc3)OC(C(C)C)CC2CC=O)c1.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "Cc1c(F)ccc(N(C)C(=O)C2=CCCC2)c1Br.[Pd]", "products": "Cc1c(F)ccc(N(C)C(=O)C2=CCCC2)[c]1[Pd][Br]"}, {"reactants": "Cc1c(F)ccc(N(C)C(=O)C2=CCCC2)[c]1[Pd][Br]", "products": "Cc1c(F)ccc2c1N(C)C(=O)C21CCC[CH]1[Pd][Br]"}, {"reactants": "Cc1c(F)ccc2c1N(C)C(=O)C21CCC[CH]1[Pd][Br]", "products": "Cc1c(F)ccc2c1N(C)C(=O)C21C=CCC1.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C[Ti](C)(C1=CC=CC1)C2=CC=CC2", "products": "C=[Ti](C1=CC=CC1)C2=CC=CC2.C"}, {"reactants": "C=C[C@@H]1C[C@H]([C@@H](C)COCc2ccccc2)OC(=O)O1.C=[Ti](C1=CC=CC1)C2=CC=CC2", "products": "C=C[C@@H]1C[C@H]([C@@H](C)COCc2ccccc2)OC2(O1)C[Ti](C3=CC=CC3)(C4=CC=CC4)O2"}, {"reactants": "C=C[C@@H]1C[C@H]([C@@H](C)COCc2ccccc2)OC2(O1)C[Ti](C3=CC=CC3)(C4=CC=CC4)O2", "products": "C=C[C@@H]1C[C@H]([C@@H](C)COCc2ccccc2)OC(=C)O1.O=[Ti](C1=CC=CC1)C2=CC=CC2"}, {"reactants": "C=C[C@@H]1C[C@H]([C@@H](C)COCc2ccccc2)OC(=C)O1", "products": "O1C(=O)CC/C=C\\C[C@@H]([C@@H](C)COCc2ccccc2)1"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "O=C(c1cc(F)cc(F)c1)C1C2CCC1C2", "products": "[O][C](c1cc(F)cc(F)c1)C1C2CCC1C2"}, {"reactants": "[O][C](c1cc(F)cc(F)c1)C1C2CCC1C2", "products": "[O]C(=CC1C[CH]CC1)c1cc(F)cc(F)c1"}, {"reactants": "[O]C(=CC1C[CH]CC1)c1cc(F)cc(F)c1", "products": "OC(=CC1C=CCC1)c1cc(F)cc(F)c1"}, {"reactants": "OC(=CC1C=CCC1)c1cc(F)cc(F)c1", "products": "O=C(CC1C=CCC1)c1cc(F)cc(F)c1"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "Cc1cccc(C(=O)C2C3CCC2C3)c1Cl", "products": "Cc1cccc([C]([O])C2C3CCC2C3)c1Cl"}, {"reactants": "Cc1cccc([C]([O])C2C3CCC2C3)c1Cl", "products": "Cc1cccc(C([O])=CC2C[CH]CC2)c1Cl"}, {"reactants": "Cc1cccc(C([O])=CC2C[CH]CC2)c1Cl", "products": "Cc1cccc(C(O)=CC2C=CCC2)c1Cl"}, {"reactants": "Cc1cccc(C(O)=CC2C=CCC2)c1Cl", "products": "Cc1cccc(C(=O)CC2C=CCC2)c1Cl"}]}
